US08022062B2
2-(2-Fluoro-5-methoxyphenyl)-ethylamine:
Cautiously add sulfuric acid (14.7 mL, 265 mmol) dropwise at 0° C. to lithium aluminum hydride (1M solution in THF, 565 mL) with efficient stirring. Warm the mixture to ambient temperature for 20 min and then cool back to 0° C. Add a solution of 1-fluoro-4-methoxy-2-(2-nitro-vinyl)-benzene (18.7 g, 95 mmol) in THF (150 mL) by cannula and stir 2.5 h at ambient temperature. Cool the mixture to 0° C., cautiously add water (4.6 mL) followed by 2N aqueous NaOH (4.6 mL) and water (6.5 mL). Remove the precipitate by filtration and evaporate the filtrate to give the desired intermediate (16 g, 100%). MS (ES+) m/z: 170 (+H)+.

reactant | sulfuric acid | 265 mmol, 14.7 mL | S(O)(O)(=O)=O | H2O4S
reactant | lithium aluminum hydride | 1M, 565 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-fluoro-4-methoxy-2-(2-nitro-vinyl)-benzene | 95 mmol, 18.7 g | FC1=C(C=C(C=C1)OC)C=C[N+](=O)[O-] | C9H8FNO3
reactant | NaOH | 2N, 4.6 mL | [OH-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 6.5 mL | O | H2O
solvent | water | 4.6 mL | O | H2O
product | 2-(2-Fluoro-5-methoxyphenyl)-ethylamine | 16 g, 100% | FC1=C(C=C(C=C1)OC)CCN | C9H12FNO
